US09403823B2
Step 3: General protocol for the preparation of 3-[(2-Acetyl-1H-pyrrolo[2,3-b]pyridin-5-ylamino)-methyl]-N-pyridin-3-yl-benzamide (OR0917)
1-(5-Amino-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanone (1 eq) and 3-Formyl-N-pyridin-3-yl-benzamide (1.1 eq) were stirred in a mixture of MeOH/AcOH (10/1; 0.06M) for 2 h. Then NaBH3CN (1.2 eq) was slowly added and the mixture was stirred under argon at RT overnight. The reaction was quenched by addition of saturated NaHCO3 solution until neutrality. MeOH and acetic acid were evaporated. The crude was filtered and washed with water and Et2O before being purified on reverse phase (H2O 1% TFA/MeCN 1% TFA 100/0, 0/100). MeCN was evaporated. The product was suspended in H2O and basified with saturated NaHCO3 solution until pH=8-9. The aqueous layer was extracted three times with AcOEt. The organic layer was dried over Na2SO4, filtered and concentrated to give the expected product.

reactant | 1-(5-Amino-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanone | 1 eq | NC=1C=C2C(=NC1)NC(=C2)C(C)=O | C9H9N3O
reactant | 3-Formyl-N-pyridin-3-yl-benzamide | 1.1 eq | C(=O)C=1C=C(C(=O)NC=2C=NC=CC2)C=CC1 | C13H10N2O2
reactant | NaBH3CN | 1.2 eq | [BH3-]C#N.[Na+]
solvent | MeOH AcOH | 0.06M | CO.CC(=O)O
product | 3-[(2-Acetyl-1H-pyrrolo[2,3-b]pyridin-5-ylamino)-methyl]-N-pyridin-3-yl-benzamide | C(C)(=O)C1=CC=2C(=NC=C(C2)NCC=2C=C(C(=O)NC=3C=NC=CC3)C=CC2)N1 | C22H19N5O2
